US08426422B2
methyl 2-(benzyloxy)-4-fluorobenzoate
Methyl 4-fluoro-2-hydroxybenzoate (2.00 g), benzyl bromide (1.54 mL), and cesium carbonate (4.60 g) in N,N-dimethylformamide (50 mL) were stirred in for 24 hours. The reaction was taken up in ether and washed 3× with 1M NaOH solution and with brine, then concentrated to give the title compound.

reactant | Methyl 4-fluoro-2-hydroxybenzoate | 2.00 g | FC1=CC(=C(C(=O)OC)C=C1)O | C8H7FO3
reactant | benzyl bromide | 1.54 mL | C(C1=CC=CC=C1)Br | C7H7Br
reactant | cesium carbonate | 4.60 g | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | N,N-dimethylformamide | 50 mL | CN(C=O)C | C3H7NO
solvent | ether | CCOCC | C4H10O
product | methyl 2-(benzyloxy)-4-fluorobenzoate | C(C1=CC=CC=C1)OC1=C(C(=O)OC)C=CC(=C1)F | C15H13FO3
